US07632829B2
1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-hydroxy-ethyl)-[1,4]diazepan-5-one
A solution of 2.16 g (5.91 mmol) of {4-[(E)-3-(3-chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetic acid ethyl ester in 30 ml of ethanol was treated at 0° C. with 0.45 g (11.81 mmol) of sodium borohydride in 30 ml of ethanol during 20 min. The reaction was stirred for 21 h at RT, cooled (0° C.) and treated again with 0.45 g (11.81 mmol) of sodium borohydride. After 22 h at RT the reaction neutralized with cold aqueous 10% KHSO4 and extracted with EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (EtOAc and then EtOAc/EtOH 1 to 7.5%) to yield 1.50 g (79%) of the title compound as light white foam. MS: 323.1 (MH+, Cl).

reactant | {4-[(E)-3-(3-chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetic acid ethyl ester | 5.91 mmol, 2.16 g | C(C)OC(CN1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O)=O | C18H21ClN2O4
reactant | sodium borohydride | 11.81 mmol, 0.45 g | [BH4-].[Na+]
reactant | sodium borohydride | 11.81 mmol, 0.45 g | [BH4-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-hydroxy-ethyl)-[1,4]diazepan-5-one | 1.50 g, 79% | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CCO | C16H19ClN2O3
